US04803210
C. Preparation of 5-hydroxycyclohepta[1,2-c]pyridine (Structure 4C: n=2)
A solution of 5-acetyloxycyclohepta[1,2-c]pyridine in hydrochloric acid (75 ml, ca. 5 N) was heated and stirred at its reflux temperature for 61/2 hrs. The resulting red-colored solution was stirred overnight, then neutralized with solid K2CO3 (pH=8) and the oily precipitate extracted with methylene chloride. The organic phase was separated, washed with brine, and dried (MgSO4). Filtration through celite gave a light yellow filtrate which on concentration gave a gummy brown solid. The solid was triturated with hexane and collected by filtration. The yield of light tan solid was 5.10 g (59%), m.p. 127°-129° C.

reactant | 5-acetyloxycyclohepta[1,2-c]pyridine | C(C)(=O)OC=1C=CC=CC2=CNC=CC21 | C12H11NO2
reactant | K2CO3 | pH=8 | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | ca. 5 N, 75 ml | Cl | ClH
product | 5-hydroxycyclohepta[1,2-c]pyridine | OC=1C=CC=CC2=CNC=CC21 | C10H9NO
